US07825254B2
[4-(Quinolin-2-ylmethoxy)-phenyl]-hydrazine
To a suspension of 4-(Quinolin-2-ylmethoxy)-phenylamine (1.73 g) in 30 mL of concentrated HCl at 0° C. was added sodium nitrite (531 mg). After 3 h, tin chloride (3.95 g) was dissolved in 20 mL of concentrated HCl and added slowly dropwise and the reaction mixture stirred at ambient temperature for 18 h. The reaction mixture was filtered and the solid dried to provide the title compound as the HCL salt (3.94 g). MS: (M+H m/z=266.3).

reactant | 4-(Quinolin-2-ylmethoxy)-phenylamine | 1.73 g | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)N | C16H14N2O
reactant | sodium nitrite | 531 mg | N(=O)[O-].[Na+]
reactant | tin chloride | 3.95 g | [Sn](Cl)(Cl)(Cl)Cl
solvent | HCl | 30 mL | Cl | ClH
solvent | HCl | 20 mL | Cl | ClH
product | [4-(Quinolin-2-ylmethoxy)-phenyl]-hydrazine | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)NN | C16H15N3O
